US04735941
Preparation of 4(R,S)-(2(S)-tert-butoxycarbonylamino-3-phenylpropanoylamino)-2,4-dihydro-6-phenyl-1H-imidazo[1,2-a]-[1,4]-benzodiazepine
Crude 4(R,S)-amino-2,4-dihydro-6-phenyl-1H-imidazo-[1,2-a]-[1,4]-benzodiazepine (1.37 g), Boc-L-phenyl-alanine (1.37 g, 5.17 mmole), 1-hydroxybenzotriazole (0.07 g, 5.17 mmole), and 1-ethyl-3-(3-dimethylaminopropyl)carbodimide hydrochloride (0.99 g, 5.17 mmole) are combined in DMF (30 mL) and stirred at room temperature. The pH of the reaction mixture is adjusted to 8.5 with triethylamine, and after 1/2 hour, the DMF is removed in vacuo, and the residue partitioned between ethyl acetate and 10% citric acid solution (10 mL). The layers are separated and the organic phase is washed with sodium bicarbonate solution (NaHCO3, saturated). The combined organic layers are washed with brine, dried over Na2SO4, filtered, and evaporated to dryness in vacuo to give the title compound as a mixture of diastereomers.

reactant | 4(R,S)-amino-2,4-dihydro-6-phenyl-1H-imidazo-[1,2-a]-[1,4]-benzodiazepine | 1.37 g | NC1C=2N(C3=C(C(=N1)C1=CC=CC=C1)C=CC=C3)CCN2 | C17H16N4
reactant | Boc-L-phenyl-alanine | 5.17 mmole, 1.37 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | 1-hydroxybenzotriazole | 5.17 mmole, 0.07 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodimide hydrochloride | 5.17 mmole, 0.99 g | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4(R,S)-(2(S)-tert-butoxycarbonylamino-3-phenylpropanoylamino)-2,4-dihydro-6-phenyl-1H-imidazo[1,2-a]-[1,4]-benzodiazepine | C(C)(C)(C)OC(=O)N[C@H](C(=O)NC1C=2N(C3=C(C(=N1)C1=CC=CC=C1)C=CC=C3)CCN2)CC2=CC=CC=C2 | C31H33N5O3
